US04686292
Phenyl 5-amino-2-methoxy-4-nitrobenzoate
To a suspension of 5.55 g of 5-amino-2-methoxy-4-nitrobenzoic acid in 40 ml of benzene was added 40 ml of thionyl chloride, and the mixture was refluxed for 4 hours. Subsequently, an excess amount of the thionyl chloride and the solvent were evaporated, the residue was dissolved in 40 ml of benzene, and then 12.3 g of phenol and 15.3 ml of triethylamine were added under ice cooling. The mixture was stirred under ice cooling for 30 minutes and then at room temperature overnight. To the reaction solution were added water and ethyl acetate, the organic layer was washed with 10 aqueous sodium hydroxide solution and water, successively, and then the solvent was evaporated under reduced pressure. The residue was applied on a silica gel column chromatography, and the fractions eluted by benzene were collected and recrystallized from methanol to give the title compound, m.p. 130°-132° C., yield of 2.55 g.

reactant | 5-amino-2-methoxy-4-nitrobenzoic acid | 5.55 g | NC=1C(=CC(=C(C(=O)O)C1)OC)[N+](=O)[O-] | C8H8N2O5
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | Phenyl 5-amino-2-methoxy-4-nitrobenzoate | NC=1C(=CC(=C(C(=O)OC2=CC=CC=C2)C1)OC)[N+](=O)[O-] | C14H12N2O5
